US09029371B2
A mixture of 2-[4-(2,3-dimethyl-phenoxy)-phenyl]-morpholine (0.60 g; 1.9 mmol), tert-butyl methacrylate (0.61 ml; 3.8 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.84 ml; 5.6 mmol), and DMF (10 mL) was heated at 140° C., overnight, in a closed vessel. After cooling to room temperature, the mixture was partitioned between 5% aqueous NaHCO3 and EtOAc. The organic layer was dried (MgSO4), filtered, and concentrated in vacuo. The residue was purified by column chromatography (SiO2, Et2O/hexanes 1:9) to afford 3-{2-[4-(2,3-dimethyl-phenoxy)-phenyl]-morpholin-4-yl}-2-methyl-propionic acid tert-butyl ester (0.27 g).

reactant | 2-[4-(2,3-dimethyl-phenoxy)-phenyl]-morpholine | 1.9 mmol, 0.60 g | CC1=C(OC2=CC=C(C=C2)C2CNCCO2)C=CC=C1C | C18H21NO2
reactant | tert-butyl methacrylate | 3.8 mmol, 0.61 ml | C(C(=C)C)(=O)OC(C)(C)C | C8H14O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.6 mmol, 0.84 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-{2-[4-(2,3-dimethyl-phenoxy)-phenyl]-morpholin-4-yl}-2-methyl-propionic acid tert-butyl ester | 0.27 g | C(C)(C)(C)OC(C(CN1CC(OCC1)C1=CC=C(C=C1)OC1=C(C(=CC=C1)C)C)C)=O | C26H35NO4
